US04031101
A mixture of 273 g. of methyl 4-chlorobutyrate, 460 g. of cis-2,6-dimethylpiperidine, 10 g. of sodium iodide and 300 ml. of xylene is stirred and heated at reflux for 44 hours, then cooled and filtered. The filter cake is washed with xylene and the combined filtrate and washings are evaporated at reduced pressure to give cis-2,6-dimethyl-1-piperidinebutyric acid, methyl ester which is purified by distillation; b.p. 79°-81° C./0.5 mm.

reactant | methyl 4-chlorobutyrate | ClCCCC(=O)OC | C5H9ClO2
reactant | cis-2,6-dimethylpiperidine | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | sodium iodide | [I-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | cis-2,6-dimethyl-1-piperidinebutyric acid, methyl ester | C[C@@H]1N([C@@H](CCC1)C)CCCC(=O)OC | C12H23NO2
